US07179819B2
To a stirred solution of methyl 4-[5-(R)-methyl-2-(S)-pirrolidinylmethoxy]benzoate (141 mg, 0.57 mmol), 4-[N′-(2-methylphenyl)ureido]-3-methoxyphenylacetic acid (178 mg, 0.57 mmol) and N,N-dimethylaminopyridine (69.0 mg, 0.57 mmol) in DMF (10 ml) was added EDC.HCl (120 mg, 0.62 mmol) at rt, and the resulting mixture was stirred overnight. The reaction mixture was poured into water and extracted with EtOAc. The organic layer was washed with brine, drying over anhydrous Na2SO4, then concentrated in vacuo. The residue was chromatographed on silica gel with EtOAc as eluent to give methyl 4-[1-[4-[N′-(2-methylphenyl)ureido]-3-methoxyphenyl acetyl]-5-(R)-methyl-2-(S)-pyrrolidinylmethoxy]benzoate (297 mg, 96%) as a colorless amorphous solid. 1H-NMR (CDCl3) δ 1.24–1.34 (m, 3 H), 1.93–2.18 (series of m, 4 H), 2.28 (s, 3 H), 3.65 (s, 3 H), 3.88 (s, 3 H), 3.62–3.87 (m, 3 H), 4.11–4.38 (series of m, 3 H), 6.42–8.06 (series of m, 13 H); MS (ESI) m/z, 546 (M++H).

reactant | methyl 4-[5-(R)-methyl-2-(S)-pirrolidinylmethoxy]benzoate | 0.57 mmol, 141 mg | C[C@@H]1CC[C@H](N1)COC1=CC=C(C(=O)OC)C=C1 | C14H19NO3
reactant | 4-[N′-(2-methylphenyl)ureido]-3-methoxyphenylacetic acid | 0.57 mmol, 178 mg | CC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)O)OC)=O | C17H18N2O4
reactant | EDC.HCl | 0.62 mmol, 120 mg | CCN=C=NCCCN(C)C.Cl
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 4-[1-[4-[N′-(2-methylphenyl)ureido]-3-methoxyphenyl acetyl]-5-(R)-methyl-2-(S)-pyrrolidinylmethoxy]benzoate | 297 mg, 96% | CC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)N1[C@@H](CC[C@H]1C)COC1=CC=C(C(=O)OC)C=C1)OC)=O | C31H35N3O6
